US08975415B2
To a solution of tert-butyl [(4′R)-6′-({[5-(difluoromethyl)pyrazin-2-yl]carbonyl}amino)-2′,2′-dimethyldispiro[cyclopropane-1,3′-chromene-4′,4″-[1,3]oxazol]-2″-yl]carbamate (373 mg, 0.704 mmol) in chloroform (6 ml) was added trifluoroacetic acid (2 ml). The mixture was stirred at room temperature for 2 hours and concentrated in vacuo. The residue was purified by silica gel column chromatography (precolumn: NH-silica gel, main column: neutral silica gel, chloroform/methanol=100:0-10:1). To the purified product was added a mixture of hexane and ethyl acetate (4:1), and the mixture was stirred at room temperature over night. The resulting precipitate was collected, washed with a mixture of hexane and ethyl acetate (4:1), and dried in vacuo to afford N-[(4′R)-2″-amino-2′,2′-dimethyldispiro[cyclopropane-1,3′-chromene-4′,4″-[1,3]oxazol]-6′-yl]-5-(difluoromethyl)pyrazine-2-carboxamide (253 mg).

reactant | tert-butyl [(4′R)-6′-({[5-(difluoromethyl)pyrazin-2-yl]carbonyl}amino)-2′,2′-dimethyldispiro[cyclopropane-1,3′-chromene-4′,4″-[1,3]oxazol]-2″-yl]carbamate | 0.704 mmol, 373 mg | FC(C=1N=CC(=NC1)C(=O)NC=1C=C2C(=CC1)OC(C1(CC1)[C@@]21N=C(OC1)NC(OC(C)(C)C)=O)(C)C)F | C26H29F2N5O5
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | chloroform | 6 ml | C(Cl)(Cl)Cl | CHCl3
product | N-[(4′R)-2″-amino-2′,2′-dimethyldispiro[cyclopropane-1,3′-chromene-4′,4″-[1,3]oxazol]-6′-yl]-5-(difluoromethyl)pyrazine-2-carboxamide | 253 mg | NC=1OC[C@@]2(N1)C1(C(OC3=CC=C(C=C32)NC(=O)C3=NC=C(N=C3)C(F)F)(C)C)CC1 | C21H21F2N5O3
